US07723329B2
A solution of toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester (0.422 g, 0.786 mmol) in 2.0 M methylamine in THF (8.0 mL, 16 mmol). was stirred for 15 hours at 70° C. in a sealed tube. After cooling to ambient temperature, the reaction mixture was concentrated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with brine. The aqueous phases were extracted with chloroform, and both organic phases were combined and dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 0.75% ammonium hydroxide/7.5% methanol in chloroform. Methyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine was obtained as a light yellow foam (0.209 g, 67.2%). Methanol and ethereal hydrochloride were added to the compound. The resulting solution was concentrated and dried for 14 hours at 84° C. in vacuo. The hydrochloride was obtained as a light yellow foam (0.217 g). Mass Spectrum (−EI, [M−H]−) m/z 394. 1HNMR (500 MHz, DMSO-d6): δ14.16 (s, 1H), 8.74-8.76 (m, 1H), 8.67 (s, br, 2H), 8.52 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.27 (d, 1H, J=8.30 Hz), 8.02-8.05 (m, 1H), 7.70-7.75 (m, 1H), 7.54-7.65 (m, 3H), 7.29 (d, 1H, J=2.19 Hz), 7.08-7.11 (m, 1H), 4.09 (t, 2H, J=5.98 Hz), 3.05 (s, br, 2H), 2.55 (s, 3H), 2.05-2.11 ppm (m, 2H). Elemental Analysis for C21H21N3O3S.1.00 mol HCl.0.45 mol H2O: Calcd: C, 57.32; H, 5.25; N, 9.55; Found: C, 57.64; H, 5.33; N, 9.39.

reactant | toluene-4-sulfonic acid 3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl ester | 0.786 mmol, 0.422 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCCOS(=O)(=O)C1=CC=C(C=C1)C | C27H24N2O6S2
reactant | THF | 16 mmol, 8.0 mL | C1CCOC1 | C4H8O
reactant | methylamine | 2.0 M | CN | CH5N
product | Methyl-{3-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-propyl}-amine | CNCCCOC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C21H21N3O3S
